US07632829B2
(rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(1-hydroxymethyl-4-piperidin-1-yl-butyl)-[1,4]diazepan-5-one
A solution of 0.041 g (0.08 mmol) of (rac)-2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-5-piperidin-1-yl-pentanoic acid methyl ester in 0.5 ml of ethanol was treated at 0° C. with 0.006 g (0.16 mmol) of sodium borohydride in 0.5 ml of ethanol during 5 min. The reaction was stirred for 21 h at RT, cooled (0° C.) and treated again with 0.006 g (0.16 mmol) of sodium borohydride in 0.5 ml ethanol. After 5 h at RT the reaction was neutralized with cold aqueous 10% KHSO4 and extracted with cold saturated NaHCO3/EtOAc (3×). The organic phases were washed with aqueous 10% NaCl, dried over Na2SO4, evaporated and purified by flash silica gel column (CH2Cl2/MeOH 9:1 to 4:1 and then, to elute the product, with CH2Cl2/MeOH/25% NH4OH 9:1:0.1) to yield after precipitation with CH2Cl2/n-penatne 0.022 g (57%) of the title compound as white foam. MS: 482.3 (MH+, 2Cl).

reactant | (rac)-2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-5-piperidin-1-yl-pentanoic acid methyl ester | 0.08 mmol, 0.041 g | COC(C(CCCN1CCCCC1)N1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C25H33Cl2N3O4
reactant | sodium borohydride | 0.16 mmol, 0.006 g | [BH4-].[Na+]
reactant | sodium borohydride | 0.16 mmol, 0.006 g | [BH4-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | (rac)-1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(1-hydroxymethyl-4-piperidin-1-yl-butyl)-[1,4]diazepan-5-one | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)C(CCCN1CCCCC1)CO | C24H33Cl2N3O3
